US08207164B2
a) 5-tert-Butoxycarbonylamino-2-methyl-oxazole-4-carboxylic acid ethyl ester
To a solution of 221 mg (1.3 mmol) 5-amino-2-methyl-oxazole-4-carboxylic acid ethyl ester in 6.5 ml acetonitrile was added at 0° C. 0.795 ml (4.55 mmol) DIPEA, 31.8 mg (0.26 mmol) DMAP and 709 mg (3.25 mmol) Boc2O and the mixture was stirred at 45° C. for 2 days. After cooling to room temperature water was added and the mixture was extracted with DCM. The combined organic layers were washed with 1N HCl and halfsaturated aqueous NaCl, dried with Na2SO4 and evaporated. The residue was'purified by chromatography on silica gel (cyclohexane to cyclohexane/EtOAc 1:1) to provide the title compound as pinkish solid. HPLC: RtH10=1.21 min; ESIMS [M+H]+=271.1.

reactant | 5-amino-2-methyl-oxazole-4-carboxylic acid ethyl ester | 1.3 mmol, 221 mg | C(C)OC(=O)C=1N=C(OC1N)C | C7H10N2O3
reactant | DIPEA | 4.55 mmol, 0.795 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc2O | 3.25 mmol, 709 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | acetonitrile | 6.5 ml | C(C)#N | C2H3N
catalyst | DMAP | 0.26 mmol, 31.8 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-tert-Butoxycarbonylamino-2-methyl-oxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(OC1NC(=O)OC(C)(C)C)C | C12H18N2O5
